US09278950B2
Step 2. 3-Amino-N-{4-[(3R,4S,5S)-3-amino-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}-7-ethylquinoline-2-carboxamide
To a solution of benzyl {2-[({4-[(3R,4S,5S)-3-[(tert-butoxycarbonyl)amino]-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-vinylquinolin-3-yl}carbamate (5.2 mg, 0.007 mmol) in MeOH (0.29 mL) and THF (0.29 mL) was added a mixture of palladium (2.9 mg) (10% Pd on carbon). The reaction mixture was deoxygenated under reduced pressure and hydrogen was introduced via a balloon. The reaction mixture was stirred at room temperature under hydrogen for 1 h. The mixture was filtered and concentrated under vacuum to give an intermediate. The intermediate was treated with 4.0 M HCl in dioxane (0.074 mL, 0.30 mmol) and stirred at room temperature for 30 min. The solution was then concentrated under reduced pressure. The residue was diluted with MeOH and NH4OH, filtered and purified by preparative LCMS (pH=10 method; XBridge™ preparative C18 5 μm OBD™ column, 30×10 mm, 60 mL/min., eluting with a gradient of MeCN and water with 0.1% NH4OH) to give the desired product as yellow powder (2.3 mg, 66%). LCMS calc. for C25H30N9O (M+H)+: m/z=472.3. Found: 472.3.

reactant | benzyl {2-[({4-[(3R,4S,5S)-3-[(tert-butoxycarbonyl)amino]-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-vinylquinolin-3-yl}carbamate | 0.007 mmol, 5.2 mg | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]([C@@H]1N1N=NC=C1)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)C=C | C38H41N9O5
reactant | HCl | 4.0 M | Cl | ClH
reactant | dioxane | 0.30 mmol, 0.074 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 0.29 mL | CO | CH4O
solvent | THF | 0.29 mL | C1CCOC1 | C4H8O
catalyst | palladium | 2.9 mg | [Pd] | Pd
product | 3-Amino-N-{4-[(3R,4S,5S)-3-amino-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}-7-ethylquinoline-2-carboxamide | 2.3 mg, 66% | NC=1C(=NC2=CC(=CC=C2C1)CC)C(=O)NC=1C=NC=CC1N1C[C@H]([C@H]([C@H](C1)C)N1N=NC=C1)N | C25H29N9O
